US08357706B2
Prepared using General Procedure 2. A flask containing 3-cyano-4-isopropoxybenzoic acid (135 mg, 0.66 mmol), HOBt (130 mg, 0.85 mmol) and EDC (164 mg, 0.85 mmol) in DMF (2.5 mL) was stirred for 1.5 h at room temperature under an atmosphere of N2. A solution of crude tert-butyl 5-(N-hydroxycarbamimidoyl)-1H-indole-1-carboxylate INT-66 (199 mg, 0.72 mmol) in DMF (2.5 mL) was added to the mixture. After 1 h at room temperature, the mixture was heated to 75° C. and stirred overnight. The reaction mixture was diluted with NaHCO3 and extracted with EtOAc. The combined organic extracts were dried over Na2SO4 and concentrated. The resulting crude material was chromatographed (EtOAc/hexanes) to provide 174 mg (59%) of tert-butyl 5-(5-(3-cyano-4-isopropoxyphenyl)-1,2,4-oxadiazol-3-yl)-1H-indole-1-carboxylate INT-67 as a white solid. LCMS-ESI (m/z) calculated for C25H24N4O4: 444.5; found 445.1 [M+H]+, tR=3.67 min (Method 1).

reactant | 3-cyano-4-isopropoxybenzoic acid | 0.66 mmol, 135 mg | C(#N)C=1C=C(C(=O)O)C=CC1OC(C)C | C11H11NO3
reactant | HOBt | 0.85 mmol, 130 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.85 mmol, 164 mg
reactant | tert-butyl 5-(N-hydroxycarbamimidoyl)-1H-indole-1-carboxylate | ONC(=N)C=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C | C14H17N3O3
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | tert-butyl 5-(5-(3-cyano-4-isopropoxyphenyl)-1,2,4-oxadiazol-3-yl)-1H-indole-1-carboxylate | 174 mg, 59% | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C | C25H24N4O4
